US04316913
4.32 g (0.02 mol) of 3-phenoxy-4-fluoro-benzaldehyde and 7.1 g (0.02 mol) of 2,2-dimethyl-3-(2-chloro-2-(4-trifluoromethoxy-phenyl)-vinyl)-cyclopropanecarboxylic acid chloride were together added dropwise to a mixture of 1.6 g of sodium cyanide, 2.5 ml of water, 100 ml of n-hexane and 0.5 g of tetrabutylammonium bromide at 20°-25° C., while stirring, and the mixture was then stirred at 20°-25° C. for 4 hours. 300 ml of toluene were subsequently added, and the reaction mixture was extracted by shaking twice with 300 ml of water each time. The organic phase was separated off and dried over magnesium sulphate and the solvent was distilled off under a waterpump vacuum. Last residues of solvent were removed by brief incipient distillation at a bath temperature of 60° C./1 mm Hg. 7 g (62.6% of theory) of 2,2-dimethyl-3-(2-chloro-2-(4-trifluoromethoxy-phenyl)-vinyl)-cyclopropanecarboxylic acid 3-phenoxy-4 -fluoro-α-cyano-benzyl ester were obtained as a viscous oil. The structure was confirmed by the 1H-NMR spectrum.

reactant | 3-phenoxy-4-fluoro-benzaldehyde | 0.02 mol, 4.32 g | O(C1=CC=CC=C1)C=1C=C(C=O)C=CC1F | C13H9FO2
reactant | 2,2-dimethyl-3-(2-chloro-2-(4-trifluoromethoxy-phenyl)-vinyl)-cyclopropanecarboxylic acid chloride | 0.02 mol, 7.1 g | CC1(C(C1C=C(C1=CC=C(C=C1)OC(F)(F)F)Cl)C(=O)Cl)C | C15H13Cl2F3O2
reactant | sodium cyanide | 1.6 g | [C-]#N.[Na+]
reactant | water | 2.5 ml | O | H2O
catalyst | tetrabutylammonium bromide | 0.5 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | n-hexane | 100 ml | CCCCCC | C6H14
product | 2,2-dimethyl-3-(2-chloro-2-(4-trifluoromethoxy-phenyl)-vinyl)-cyclopropanecarboxylic acid 3-phenoxy-4 -fluoro-α-cyano-benzyl ester | 7 g, 62.6% | O(C1=CC=CC=C1)C=1C=C(C(C#N)OC(=O)C2C(C2C=C(C2=CC=C(C=C2)OC(F)(F)F)Cl)(C)C)C=CC1F | C29H22ClF4NO4
